US06147216
Step a: 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic Acid, Ethyl Ester Hydrochloride
Dissolve 2-[4-(4-chloro-butyryl)-phenyl]-2-methyl-propionic acid, ethyl ester (15.0 g, 49.53 mmol) and α,α-diphenyl-4-piperidinemethanol (29.66 g, 106.4 mmol) in xylene (60 mL). Reflux for 5.5 hours, cool in an ice bath, filter and wash with cold xylenes (25 mL). Filter the filtrate though silica gel (20 g) and wash the gel with xylenes (40 mL). Add xylene (60 mL) and concentrated hydrochloric acid (6.45 g, 65.6 mmol) with stirring. Add additional xylenes (40 mL) and stir for 2 hour. Filter, wash with xylene (50 mL), vacuum dry and slurry with a mixture of ethanol (60 mL) and hexane (120 mL) at 70-72° C. for 30 minutes. Filter, wash with 3:1 v/v solution of n-heptane/ethanol (30 mL) and dry to give the title compound as a light white solid (19.7 g, 70%); mp 206-208° C.

reactant | 2-[4-(4-chloro-butyryl)-phenyl]-2-methyl-propionic acid, ethyl ester | 49.53 mmol, 15.0 g | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C16H21ClO3
reactant | α,α-diphenyl-4-piperidinemethanol | 106.4 mmol, 29.66 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | hydrochloric acid | 65.6 mmol, 6.45 g | Cl | ClH
solvent | xylene | 60 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 60 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic Acid, Ethyl Ester Hydrochloride | 19.7 g, 70% | Cl.OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C34H41NO4.ClH/c1-4-39-32(37)33(2,3)27-19-17-26(18-20-27)31(36)16-11-23-35-24-21-30(22-25-35)34(38,28-12-7-5-8-13-28)29-14-9-6-10-15-29;/h5-10,12-15,17-20,30,38H,4,11,16,21-25H2,1-3H3;1H
